US08431607B2
To a solution of sulfamide (100.9 mg, 1.05 mmol) in anhydrous acetonitrile (3.3 mL) is slowly added dichlorodiphenoxymethane (269.1 mg, 1.00 mmol) at 0° C. The reaction mixture is stirred at room temperature overnight before removal of the solvent. The residue is purified by chromatography to provide diphenyl sulfamoylcarbonimidate (280.2 mg, 96% yield) as a white solid product; HPLC-MS calculated for C13H12N2O4S (M+H+) 293.1, found 293.1.

reactant | sulfamide | 1.05 mmol, 100.9 mg | S(=O)(=O)(N)N | H4N2O2S
reactant | dichlorodiphenoxymethane | 1.00 mmol, 269.1 mg | ClC(OC1=CC=CC=C1)(OC1=CC=CC=C1)Cl | C13H10Cl2O2
solvent | acetonitrile | 3.3 mL | C(C)#N | C2H3N
product | diphenyl sulfamoylcarbonimidate | 280.2 mg, 96% yield | S(N)(=O)(=O)N=C(OC1=CC=CC=C1)OC1=CC=CC=C1 | C13H12N2O4S
